US07932282B2
A solution of 1,1-dimethylethyl 3-methyl-2-oxo-4-imidazolidinecarboxylate (601 mg, 3 mmol) (prepared as described in step (iii) of Example 13, starting from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid) and 5-bromopyrimidine (477 mg, 3.00 mmol) in 1,4-dioxane (20 ml) was treated with cesium carbonate (1466 mg, 4.50 mmol), Xantphos™ (130 mg, 0.225 mmol) and tris(dibenzylideneacetone)dipalladium(0) (68.7 mg, 0.075 mmol) and the mixture was heated under reflux under argon for 3 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layers were combined, washed with water and brine and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with 0-100% ethyl acetate in isohexane to give 1,1-dimethylethyl 3-methyl-2-oxo-1-(5-pyrimidinyl)-4-imidazolidinecarboxylate (349 mg, 42%). LC/MS [M+H]+=279. (ii) A solution of 1,1-dimethylethyl 3-methyl-2-oxo-1-(5-pyrimidinyl)-4-imidazolidinecarboxylate (630 mg, 2.264 mmol) in TFA/DCM (1:2, 9 ml) was stirred at room temperature for 8 hours. The solution was evaporated and the residue was co-evaporated with toluene and dried to give crude 3-methyl-2-oxo-1-(5-pyrimidinyl)-4-imidazolidinecarboxylic acid (assume ˜2.2 mmol) which was used in the next step. LC/MS [M+H]+=223.

reactant | 1,1-dimethylethyl 3-methyl-2-oxo-1-(5-pyrimidinyl)-4-imidazolidinecarboxylate | 2.264 mmol, 630 mg | CN1C(N(CC1C(=O)OC(C)(C)C)C=1C=NC=NC1)=O | C13H18N4O3
solvent | TFA DCM | 9 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-methyl-2-oxo-1-(5-pyrimidinyl)-4-imidazolidinecarboxylic acid | ˜2.2 mmol | CN1C(N(CC1C(=O)O)C=1C=NC=NC1)=O | C9H10N4O3
